US07078425B2
2-Benzenesulfonylamino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide (0.17 g, 0.25 mmol) is dissolved in MeOH (2 mL) and K2CO3 is added and the reaction is stirred for 1 h. The reaction is quenched by the addition of 2 N HCl (0.1 mL) and then concentrated. The residue is dissolved in EtOAc and washed with water, brine and dried over MgSO4. The solution is concentrated and purified by column chromatography (silica, 60% EtOAc/hexanes) to provide 2-benzenesulfonylamino-3-(6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide.

reactant | 2-Benzenesulfonylamino-3-(1-benzenesulfonyl-6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide | 0.25 mmol, 0.17 g | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=NN(C2=C(C(=C1)Cl)OC)S(=O)(=O)C1=CC=CC=C1 | C33H33ClN4O6S2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 2 mL | CO | CH4O
product | 2-benzenesulfonylamino-3-(6-chloro-7-methoxy-1H-indazol-4-yl)-N-(4-phenyl-butyl)-propionamide | C1(=CC=CC=C1)S(=O)(=O)NC(C(=O)NCCCCC1=CC=CC=C1)CC1=C2C=NNC2=C(C(=C1)Cl)OC | C27H29ClN4O4S
